US04468405
3,5-Dichloro-4-(2,2-dichloro-1,1-difluoroethoxy)phenyl isocyanate
3,5-Dichloro-4-(2,2-dichloro-1,1-difluoroethoxy)benzenamine (12 g, 0.04 mole) was added to a solution of 20 g oxalyl chloride in 100 ml CCl4 and heated under reflux with stirring for 0.5 hour. A solid precipitated. The carbon tetrachloride and excess oxalyl chloride were removed by evaporation in a rotary evaporator. The residue (16 g) was a slightly oily white solid, which was used in the next reaction without purification.

reactant | 3,5-Dichloro-4-(2,2-dichloro-1,1-difluoroethoxy)benzenamine | 0.04 mole, 12 g | ClC=1C=C(C=C(C1OC(C(Cl)Cl)(F)F)Cl)N | C8H5Cl4F2NO
reactant | oxalyl chloride | 20 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CCl4 | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3,5-Dichloro-4-(2,2-dichloro-1,1-difluoroethoxy)phenyl isocyanate | ClC=1C=C(C=C(C1OC(C(Cl)Cl)(F)F)Cl)N=C=O | C9H3Cl4F2NO2
